### PR TITLE
Normed vector types, infinite norm, norm equivalence thm, continuity …

### PR DESCRIPTION
**Pull request by Tragicus**
Continuity of linear functions in finite dimension

##### Checklist

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/normedtype_theory/normed_module.v [hunk 1]
```diff
@@ -2079,3 +2086,241 @@ by rewrite interior_closed_ballE //; exact: ballxx.
 Qed.
 
 End Closed_Ball_normedModType.
+
+Section InfiniteNorm.
+Variables (R : numFieldType) (V : vectType R) (B : (\dim (@fullv _ V)).-tuple V).
+Let V' := @fullv _ V.
+Hypothesis (Bbasis : basis_of V' B).
+
+Definition oo_norm x := \big[Order.max/0]_(i < \dim V') `|coord B i x|.
```
Comment (affeldt-aist) [inline theories/normedtype_theory/normed_module.v]: Is it really a good name? Because it is a bit like using a notation inside an identifier, also we have been using `oo` to mean "open-open" in MathComp (when talking about intervals). What about `infty_norm`? (like in LaTeX). Possibly coupling it with a notation using `+oo` in some way.

File: theories/normedtype_theory/normed_module.v [hunk 2]
```diff
@@ -2079,3 +2086,241 @@ by rewrite interior_closed_ballE //; exact: ballxx.
...
+  exact: segment_compact.
+apply/continuous_subspaceT/sum_continuous => i _/= x.
+exact/continuousZl/proj_continuous. 
+Qed.
+
+Lemma equivalence_norms (N : V -> R) :
+  N 0 = 0 -> (forall x, 0 <= N x) -> (forall x, N x = 0 -> x = 0) ->
+  (forall x y, N (x + y) <= N x + N y) ->
+  (forall r x, N (r *: x) = `|r| * N x) ->
+  exists M, 0 < M /\ forall x : Voo, `|x| <= M * N x /\ N x <= M * `|x|.
```
Comment (CohenCyril) [inline theories/normedtype_theory/normed_module.v]: I think this deserve an abstraction of norm and an abstraction of norm comparison :)

File: theories/normedtype_theory/normed_module.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/normedtype_theory/normed_module.v]: `max_norm` is maybe also an option

Comment (CohenCyril) [reply theories/normedtype_theory/normed_module.v]: "Inifinity norm" or "supremum norm" (or "norme sup" or "norme infinie" in french) is the traditional name.

Comment (affeldt-aist) [reply theories/normedtype_theory/normed_module.v]: `sup_norm`?

File: classical/unstable.v [hunk 3]
```diff
@@ -591,3 +592,114 @@ Proof. exact: real_ltr_bound. Qed.
...
+rewrite /max_norm; elim: (index_enum _) (mem_index_enum i) => //= j l IHl.
+rewrite inE big_cons [X in _ <= X _ _]/Order.max/= => /predU1P[<-|/IHl {}IHl];
+  case: ifP => [/ltW|]// /negbT.
+set b := (X in _ < X).
+have bR : b \is Num.real by apply: bigmax_real => // a _; apply: normr_real.
+have /comparable_leNgt <- := real_comparable bR (normr_real (coord B j x)).
+by move=> /(le_trans IHl).
+Qed.
+
+Lemma max_norm0 : max_norm 0 = 0.
```
Comment (affeldt-aist) [inline classical/unstable.v]: Shouldn't this lemma by declared as a `Let`? (same comment for the following lemmas in this section)

File: classical/unstable.v [hunk 4]
```diff
@@ -591,3 +592,114 @@ Proof. exact: real_ltr_bound. Qed.
...
+End Norm.
+Export Norm.Exports.
+
+Section InfiniteNorm.
+Variables (K : numFieldType) (V : vectType K).
+Let V' := @fullv _ V.
+Variable B : (\dim V').-tuple V.
+Hypothesis Bbasis : basis_of V' B.
+
+Definition max_norm x := \big[Order.max/0]_(i < \dim V') `|coord B i x|.
```
Comment (affeldt-aist) [inline classical/unstable.v]: Maybe `max_norm` should be documented in the header (maybe also `max_space` just below)?

File: classical/unstable.v [hunk 5]
```diff
@@ -591,3 +592,114 @@ Proof. exact: real_ltr_bound. Qed.
...
+Variables (K : numDomainType) (L : lmodType K) (norm : Norm.type L).
+
+Lemma normMn x n : norm (x *+ n) = norm x *+ n.
+Proof. by rewrite -scaler_nat normZ normr_nat mulr_natl. Qed.
+
+Lemma normN x : norm (- x) = norm x.
+Proof. by rewrite -scaleN1r normZ normrN1 mul1r. Qed.
+
+Lemma ler_norm_sum (I : Type) (r : seq I) (F : I -> L) :
+    norm (\sum_(i <- r) F i) <= \sum_(i <- r) norm (F i).
```
Comment (affeldt-aist) [inline classical/unstable.v]:
```suggestion
  norm (\sum_(i <- r) F i) <= \sum_(i <- r) norm (F i).
```

**Comment by affeldt-aist** [comment]
For example, `Zmodule_isSemiNormed` in MathComp provides a similar interface with the difference that `norm` is one of the field of the record (whereas here it is the subject). I guess the apparent duplication is unavoidable but doesn't it deserve a comment in the code?

File: classical/unstable.v [hunk 6]
```diff
@@ -592,3 +598,117 @@ Proof. exact: real_ltr_bound. Qed.
...
+End Norm.
+Export Norm.Exports.
+
+Section InfiniteNorm.
+Variables (K : numFieldType) (V : vectType K).
+Let V' := @fullv _ V.
+Variable B : (\dim V').-tuple V.
+Hypothesis Bbasis : basis_of V' B.
+
+Definition max_norm x := \big[Order.max/0]_(i < \dim V') `|coord B i x|.
```
Comment (Tragicus) [inline classical/unstable.v]: Inference of a Norm.type for `max_norm` fails because the instance requires `B` to be a basis. However, it feels wrong to me to add the hypothesis in the definition of `max_norm`. What do you think?

Comment (affeldt-aist) [reply classical/unstable.v]: What about adding the hypothesis "temporarily"? Just leave an issue to be addressed later or add a warning to indicate to the user that it is experimental. I apologize for proposing this option without understanding completely the problem but I was under the impression that other users (@mkerjean , @agontard) also have an interest in the abstraction.

Comment (CohenCyril) [reply classical/unstable.v]: Uh oh... this is more than fishy! This definition does depend on a basis (and not only the fact that the given tuple is a basis) and is thus morally not a valid vector space definition, which ought to be invariant wrt to the choice of a basis, and this one is clearly not. This is exactly why this definition does depend on a choice of basis. What it does is build the (unique) normed space on top of V that makes the given basis normal. This means that `max_norm` is probably not the right name (it would be the case when given a function, finite function or tuple with values in a normed vector space), probably the right name is something like `norm_from_basis B Bbasis` and `normedVect_from_basis B Basis` .

File: classical/unstable.v [hunk 7]
```diff
@@ -592,3 +598,117 @@ Proof. exact: real_ltr_bound. Qed.
...
+End Theory.
+End Theory.
+
+Module Import Exports. HB.reexport. End Exports.
+End Norm.
+Export Norm.Exports.
+
+Section InfiniteNorm.
+Variables (K : numFieldType) (V : vectType K).
+Let V' := @fullv _ V.
```
Comment (CohenCyril) [inline classical/unstable.v]: Convention is:
```suggestion
Variables (K : numFieldType) (vT : vectType K).
Let V' := {:vT}
```
And `V'` can be inlined.

File: classical/unstable.v (hunk 6 above)
Comment (CohenCyril) [reply classical/unstable.v]: However we can do slightly better: indeed we can amend the given candidate `B`, keeping the smallest initial family that is generating, pruning it in order to make it free, completing it thus making a basis out of it. If `B` was indeed a basis, the tuple would stay the same, otherwise we have a non canonical normed vector space, but that's life. It can still be useful though, because if we give it a free family, the generated norm will be unique on the vector space generated by this family, which is what a user might expect. I believe this is the right way to go.

Comment (CohenCyril) [reply classical/unstable.v]: We can probably go further and generate a Hilbert space :)

Comment (Tragicus) [reply classical/unstable.v]: Giving a norm is a non-canonical choice, e.g. choosing a Euclidean norm entails choosing which bases are normal, so it is  not surprising that I have to make such a choice to define my norm. I am not sure I understand the point about "vector space definitions", this is not what I am doing here. Besides, the definition of vector spaces in `vector.v` does choose a basis, via an isomorphism with a matrix space.
It may be a consequence of the above, but I do not understand what you would like to call `max_norm`. In any case, `norm_from_basis` does not say which norm we are considering, maybe `max_norm_from_basis`.
With your optimization, I would still need to assume that `B` is generating, so I am not sure what I gain.

Comment (CohenCyril) [reply classical/unstable.v]: No you do not have to assume `B` is generating, you can complete it to be generating. (I was tired when I wrote my previous messages)

Comment (Tragicus) [reply classical/unstable.v]: Ah, true, and in that case I might as well start from an empty `B`, i.e. get rid of `B` completely.

Comment (CohenCyril) [reply classical/unstable.v]: No... please don't do that. :crying_cat_face:  we have to be able to provide a basis!

Comment (CohenCyril) [reply classical/unstable.v]: We have to be able to mention a basis that is normed.

Comment (CohenCyril) [reply classical/unstable.v]: Indeed it is not useful for your application, but it is nice to control which class of basis become normed.

To answer your other question the `max_norm` I had in mind would be the norm of a product of normed vector spaces, e.g. `vT ^ i` or more generally `{dffun forall i : 'I_n, vT_ i}` where `vT_ : normedVectType^i`.

File: classical/unstable.v [hunk 8]
```diff
@@ -592,3 +593,42 @@ Proof. exact: real_ltr_bound. Qed.
 
 Lemma ltrNbound {R : archiRealDomainType} (x : R) : - x < (Num.bound x)%:R.
 Proof. exact: real_ltrNbound. Qed.
+
+(* normedZmodType provide norms but the subject is not the norm. We define here
```
Comment (affeldt-aist) [inline classical/unstable.v:605]:
```suggestion
(* normedZmodType provides norms but the subject is not the norm. We define here
```

**Comment by affeldt-aist** [comment]
I made a last commit essentially to introduce semi-norms because there is a need for them and will merge soon unless something comes up.

**Review by affeldt-aist — APPROVED** [review]
